US07659305B2
4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester
To a solution of 2-methyl-2-butene (2M in tetrahydrofuran, 30 ml, 60 mmol) in anhydrous tetrahydrofuran (40 ml) at 0° C. under a nitrogen atmosphere was added borane-tetrahydrofuran complex (1M in tetrahydrofuran, 30 ml, 30 mmol) dropwise over 10 minutes and allowed to stir for 2 hours. The reaction mixture was cooled to −20° C. and a solution of 4-methylene-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester (2.84 g, 10 mmol) (CAS reg 163 190-46-3) in tetrahydrofuran (20 ml) was added dropwise and stirred to room temperature over 18 hours. Water (40 ml) was added cautiously followed by sodium hydroxide (0.5M, 20 ml) then hydrogen peroxide (27.5% w/w in water, 10 ml) and stirred at room temperature for 2 hours. The organic solvent was removed under reduced pressure and the aqueous extracted with ethyl acetate (2×60 ml). The combined extracts were dried (MgSO4), filtered and evaporated under reduced pressure. The residue was purified by chromatography on silica gel, eluting with 40% ethyl acetate/heptane to give the title compound as a mixture of diastereomers (˜5:1 2S,4S:2S,4R) as a colourless oil (1.25 g, 41%)

reactant | 2-methyl-2-butene | 60 mmol, 2M, 30 ml | CC(C)=CC | C5H10
reactant | borane tetrahydrofuran | 30 mmol, 1M, 30 ml | B.O1CCCC1
reactant | 4-methylene-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester | 10 mmol, 2.84 g | C(C)(C)(C)OC(=O)N1C(CC(C1)=C)C(=O)OC(C)(C)C | C15H25NO4
reactant | sodium hydroxide | 0.5M, 20 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 10 ml | OO | H2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Water | 40 ml | O | H2O
product | 4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)CO)C(=O)OC(C)(C)C | C15H27NO5
